US04025635
3-(o-Aminophenylsulphonyl)-4-chlorobenzoic acid (6.00 g) was stirred with concentrated hydrochloric acid (8.0 ml) and water (12.0 ml) and treated at 0°-5° C. with a solution of sodium nitrite (1.50g) in water (30 ml) over 30 min. After a further 15 min. stirring the suspension was pipetted into a solution of potassium ethyl xanthate (10.2g) and sodium hydroxide (1.60g) in water (50 ml) at 45°-50° C. Vigorous nitrogen evolution took place. After the addition was complete the now clear solution was heated to boiling and further sodium hydroxide (3.20g) was added. Boiling was continued for a further 20 min., and the solution then cooled, filtered and acidified with hydrochloric acid. The solid precipitated acid was filtered off, washed with water, and recrystallised from acetic acid to give 3-carboxythianthrene-5,5-dioxide, m.p. 297°-304° C.; on further recrystallisation from ethanol it had m.p. 302°-305° C.

reactant | 3-(o-Aminophenylsulphonyl)-4-chlorobenzoic acid | 6.00 g | NC1=C(C=CC=C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C13H10ClNO4S
reactant | hydrochloric acid | 8.0 ml | Cl | ClH
reactant | sodium nitrite | 1.50g | N(=O)[O-].[Na+]
reactant | potassium ethyl xanthate | 10.2g | O(C(=S)[S-])CC.[K+]
reactant | sodium hydroxide | 1.60g | [OH-].[Na+]
reactant | sodium hydroxide | 3.20g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 12.0 ml | O | H2O
product | 3-carboxythianthrene-5,5-dioxide | C(=O)(O)C=1C=CC=2SC3=CC=CC=C3S(C2C1)(=O)=O | C13H8O4S2
